US08604055B2
N-(3,5-Bis(trifluoromethyl)benzyl)-N-((2-(bis(cyclopropylmethyl)amino)-8-methylquinolin-3-yl)methyl)cyanamide (0.118 g, 0.216 mmol), sodium azide (0.70 g 1.08 mmol) and ammonium chloride (0.058 g, 1.08 mmol) were put in a RB flask under N2 atmosphere. To this reaction mixture, DMF (2 mL) was added and was refluxed for 1 h. The reaction mixture was cooled to RT and ice was added to this and extracted with ethylacetate (3×10 mL). The combined organic layer was washed with brine, dried over sodium sulphate and then concentrated under vacuum to afford of (3-{[(3,5-bistrifluoromethyl-benzyl)-(2H-tetrazol-5-yl)-amino]-methyl}-8-methyl-quinolin-2-yl)-bis-cyclopropylmethyl-amine as a yellow solid (0.125 g, 99%).

reactant | N-(3,5-Bis(trifluoromethyl)benzyl)-N-((2-(bis(cyclopropylmethyl)amino)-8-methylquinolin-3-yl)methyl)cyanamide | 0.216 mmol, 0.118 g | FC(C=1C=C(CN(C#N)CC=2C(=NC3=C(C=CC=C3C2)C)N(CC2CC2)CC2CC2)C=C(C1)C(F)(F)F)(F)F | C29H28F6N4
reactant | sodium azide | 1.08 mmol, 0.70 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 1.08 mmol, 0.058 g | [Cl-].[NH4+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | (3-{[(3,5-bistrifluoromethyl-benzyl)-(2H-tetrazol-5-yl)-amino]-methyl}-8-methyl-quinolin-2-yl)-bis-cyclopropylmethyl-amine | 0.125 g, 99% | FC(C=1C=C(CN(C=2N=NNN2)CC=2C(=NC3=C(C=CC=C3C2)C)N(CC2CC2)CC2CC2)C=C(C1)C(F)(F)F)(F)F | C29H29F6N7
